US08802659B2
5-(trans-4-tert-Butyl-cyclohexyloxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
A mixture of 5-hydroxy-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (0.6 g, 2.6 mmol) in tert-butyl alcohol (8 mL) and 2-butanone (4 mL) was added cesium carbonate (2.5 g, 7.7 mmol) followed by methanesulfonic acid 4-tert-butyl-cyclohexyl ester (1.9 g, 7.7 mmol). The mixture was heated in a sealed vial at 100° C. over night to form precipitate. The mixture was treated with dichloromethane and the precipitate was filtered off and the solvent was concentrated. The residue was purified with a silica gel column eluted with ethyl acetate in hexanes from 0 to 30% to give precipitate (0.96 g, yield: 100%). ESI-MS: 373.30 (M)+.

reactant | 5-hydroxy-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.6 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)O | C13H17NO3
reactant | cesium carbonate | 7.7 mmol, 2.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanesulfonic acid 4-tert-butyl-cyclohexyl ester | 7.7 mmol, 1.9 g | C(C)(C)(C)C1CCC(CC1)OS(=O)(=O)C | C11H22O3S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tert-butyl alcohol | 8 mL | C(C)(C)(C)O | C4H10O
solvent | 2-butanone | 4 mL | CC(CC)=O | C4H8O
product | 5-(trans-4-tert-Butyl-cyclohexyloxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 0.96 g, yield: 100% | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C23H35NO3
